US04045209
A solution of 19 g of 3,4-dichlorophenyl isocyanate in 150 ml of ethyl ether was added to a solution of 14.4 g of N-methyl-N-chloromethylsulfonyl-amine in 150 ml of ethyl ether and after the addition of 0.1 ml of triethylamine, the mixture was stirred for a hour at 20° C. The crystals formed were recovered by vacuum filtration, were washed, dried and dissolved in chloroform. The insolubles were removed by filtration and the filtrate was concentrated to dryness. The product was crystallized from methyl ethyl ketone to obtain 21.3 g of N-methyl-N-chloromethylsulfonyl-N'-(3,4-dichlorophenyl)-urea melting at 119° C.

reactant | 3,4-dichlorophenyl isocyanate | 19 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | N-methyl-N-chloromethylsulfonyl-amine | 14.4 g | CNS(=O)(=O)CCl | C2H6ClNO2S
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 150 ml | C(C)OCC | C4H10O
product | N-methyl-N-chloromethylsulfonyl-N'-(3,4-dichlorophenyl)-urea | 21.3 g | CN(C(=O)NC1=CC(=C(C=C1)Cl)Cl)S(=O)(=O)CCl | C9H9Cl3N2O3S
